US05489592
α-Ethenyl-2,3,5-trifluorobenzenemethanol
A solution of 4.1 g (0.0194 mol) of 1-bromo-2,3,5-trifluorobenzene in 50 ml of anhydrous ether is cooled to -76 ° C. under a nitrogen atmosphere. 12.1 ml (0.0194 mol) of a 1.6M solution of n-butyllithium in hexane are added dropwise over 15 minutes at a temperature below -72° C. The mixture is stirred for 2 minutes at -73° C. and then a solution of 1.15 g (0.0205 mol) of acrolein in 5 ml of anhydrous ether is added dropwise. The mixture is stirred for 30 minutes at -70° C. and is then allowed to return to room temperature. The mixture is poured onto a mixture of 100 g of ice and 10 g of concentrated H2SO4. Extraction with ether, washing with water, drying over Na2SO4, filtration and concentration under vacuum are carried out. The residue obtained is used without other purification in the following stage. Weight obtained: 3.1 g (Yd.=86%)

reactant | 1-bromo-2,3,5-trifluorobenzene | 0.0194 mol, 4.1 g | BrC1=C(C(=CC(=C1)F)F)F | C6H2BrF3
reactant | n-butyllithium | C(CCC)[Li]
reactant | acrolein | 0.0205 mol, 1.15 g | C(=O)C=C | C3H4O
reactant | H2SO4 | 10 g | OS(=O)(=O)O | H2O4S
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 5 ml | CCOCC | C4H10O
product | α-Ethenyl-2,3,5-trifluorobenzenemethanol | C(=C)C(O)C1=C(C(=CC(=C1)F)F)F | C9H7F3O
